US06774136B2
The reaction of 7.3 ml (0.084 mol) morpholine and 5.8 g (0.035 mol) 2,3-dimethoxybenzaldehyde in accordance with general synthesis instructions 2 and subsequent reaction with 2.1 ml (0.035 mol) acetyl chloride in accordance with general synthesis instructions 3 gave 5.6 g (corresponding to 59% of the yield calculated by theory) 4-(2,3-dimethoxy-benzylidene)-morpholin-4-ium chloride.

reactant | morpholine | 0.084 mol, 7.3 ml | N1CCOCC1 | C4H9NO
reactant | 2,3-dimethoxybenzaldehyde | 0.035 mol, 5.8 g | COC1=C(C=O)C=CC=C1OC | C9H10O3
reactant | acetyl chloride | 0.035 mol, 2.1 ml | C(C)(=O)Cl | C2H3ClO
product | 4-(2,3-dimethoxy-benzylidene)-morpholin-4-ium chloride | [Cl-].COC1=C(C=[N+]2CCOCC2)C=CC=C1OC | InChI=1S/C13H18NO3.ClH/c1-15-12-5-3-4-11(13(12)16-2)10-14-6-8-17-9-7-14;/h3-5,10H,6-9H2,1-2H3;1H/q+1;/p-1
